US07446118B2
To a 0° C. solution of 4-bromoindole (5 g, 25.5 mmol) in acetonitrile (50 ml) was added dropwise chlorsulfonylisocyanate (2.37 ml, 27.3 mmol) over a 5 minute period. The reaction mixture was stirred at 0° C. for 2 hours, and TEA (3.77 ml, 27.0) was added dropwise over a 10 minute period. The reaction mixture was allowed reach room temperature overnight, poured into ice/water mixture (200 ml), and the aqueous layer was extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered, concentrated, and purified by flash chromatography to afford 4-bromo-1H-indole-3-carbonitrile LVII as an off-white solid (4.9 g, 87% yield).

reactant | 4-bromoindole | 25.5 mmol, 5 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | chlorsulfonylisocyanate | 27.3 mmol, 2.37 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-bromo-1H-indole-3-carbonitrile | BrC1=C2C(=CNC2=CC=C1)C#N | C9H5BrN2
